US04443466
(b) 4-(2',6'-Dichlorobenzyl)oxazole
21.7 g of crude 2,6-dichlorobenzylglyoxal are dissolved in 50 ml of formamide. 7.0 g of hexamethylenetetramine and 30.8 g of ammonium acetate are added and the reaction mixture is stirred at 100° C. for 2 hours, then is evaporated to dryness in vacuo. 200 ml of water are added and the pH of the aqueous phase is adjusted, while stirring, to 2-3 with concentrate hydrochloric acid. The solution is washed with toluene (3×50 ml). The aqueous solution is made alkaline with sodium hydroxide (pH=8-9) and then extracted three times with chloroform (1×100 ml and 2×50 ml). The combined chloroform extracts are washed with water, dried with sodium sulfate and evaporated to dryness. The residue, which consisted of crude product, is used in step (c) below.

reactant | 2,6-dichlorobenzylglyoxal | 21.7 g | ClC1=C(CC(=O)C=O)C(=CC=C1)Cl | C9H6Cl2O2
reactant | hexamethylenetetramine | 7.0 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | ammonium acetate | 30.8 g | C(C)(=O)[O-].[NH4+]
solvent | formamide | 50 ml | C(=O)N | CH3NO
product | 4-(2',6'-Dichlorobenzyl)oxazole | ClC1=C(CC=2N=COC2)C(=CC=C1)Cl | C10H7Cl2NO
